* PSpice Model Editor - Version 17.4.0
*$
.subckt TPM2025Q IN1 IN2 VCC1 VCC2 GND1 GND2 OUT1H OUT1L OUT2H OUT2L
*$
.model power_Dbreak D Is=1E-12 Cjo=.5pF Rs=.1 N=1 TT=0.1n
*$
D_D1         GND2 N170031 power_Dbreak 
S_CH1_U1         IN1 CH1_CH_EN CH1_UVLO_DLY GND1 _CH1_U1
.MODEL      _CH1_U1 VSWITCH Roff=1G Ron=1 VH=0.1 VT=1.5
D_CH1_D3         CH1_N23995 VCC1 power_Dbreak 
R_CH1_R6         CH1_CH_EN CH1_CH_EN_DLY  1k TC=0,0 
S_CH1_U2         VCC1 CH1_UVLO_EN VCC1 GND1 _CH1_U2
.MODEL      _CH1_U2 VSWITCH Roff=1G Ron=1 VH=0.085 VT=4.18
D_CH1_D6         GND1 CH1_N24841 power_Dbreak 
R_CH1_R10         CH1_N24841 OUT1L  100 TC=0,0 
C_CH1_C2         GND1 CH1_UVLO_DLY  6p  TC=0,0 
R_CH1_R7         IN1 CH1_N23995  100 TC=0,0 
R_CH1_R8         CH1_N24707 IN1  100 TC=0,0 
D_CH1_D5         CH1_N24275 VCC1 power_Dbreak 
R_CH1_R9         OUT1H CH1_N24275  100 TC=0,0 
S_CH1_OUTP         VCC1 OUT1H CH1_CH_EN_DLY GND1 _CH1_OUTP
.MODEL      _CH1_OUTP VSWITCH Roff=1G Ron=0.5 VH=0.7 VT=2.15
R_CH1_R4         GND1 CH1_CH_EN  1Meg TC=0,0 
D_CH1_D2         GND1 VCC1 power_Dbreak 
R_CH1_R5         CH1_UVLO_EN CH1_UVLO_DLY  10Meg TC=0,0 
D_CH1_D4         GND1 CH1_N24707 power_Dbreak 
C_CH1_C3         GND1 CH1_CH_EN_DLY  2p  TC=0,0 
R_CH1_R3         GND1 IN1  150k TC=0,0 
S_CH1_OUTN         OUT1L GND1 CH1_N27679 GND1 _CH1_OUTN
.MODEL      _CH1_OUTN VSWITCH Roff=1G Ron=0.36 VH=0.7 VT=1.45
C_CH1_C1         GND1 VCC1  10n  TC=0,0 
R_CH1_R2         CH1_UVLO_EN GND1  100k TC=0,0 
D_CH1_D7         CH1_UVLO_DLY CH1_UVLO_EN power_Dbreak 
X_CH1_U4         CH1_CH_EN_DLY CH1_N27679  VCC1 GND1 INV
S_CH2_U1         IN2 CH2_CH_EN CH2_UVLO_DLY GND2 _CH2_U1
.MODEL      _CH2_U1 VSWITCH Roff=1G Ron=1 VH=0.1 VT=1.5
D_CH2_D3         CH2_N23995 VCC2 power_Dbreak 
R_CH2_R6         CH2_CH_EN CH2_CH_EN_DLY  1k TC=0,0 
S_CH2_U2         VCC2 CH2_UVLO_EN VCC2 GND2 _CH2_U2
.MODEL      _CH2_U2 VSWITCH Roff=1G Ron=1 VH=0.085 VT=4.18
D_CH2_D6         GND2 CH2_N24841 power_Dbreak 
R_CH2_R10         CH2_N24841 OUT2L  100 TC=0,0 
C_CH2_C2         GND2 CH2_UVLO_DLY  6p  TC=0,0 
R_CH2_R7         IN2 CH2_N23995  100 TC=0,0 
R_CH2_R8         CH2_N24707 IN2  100 TC=0,0 
D_CH2_D5         CH2_N24275 VCC2 power_Dbreak 
R_CH2_R9         OUT2H CH2_N24275  100 TC=0,0 
S_CH2_OUTP         VCC2 OUT2H CH2_CH_EN_DLY GND2 _CH2_OUTP
.MODEL      _CH2_OUTP VSWITCH Roff=1G Ron=0.5 VH=0.7 VT=2.15
R_CH2_R4         GND2 CH2_CH_EN  1Meg TC=0,0 
D_CH2_D2         GND2 VCC2 power_Dbreak 
R_CH2_R5         CH2_UVLO_EN CH2_UVLO_DLY  10Meg TC=0,0 
D_CH2_D4         GND2 CH2_N24707 power_Dbreak 
C_CH2_C3         GND2 CH2_CH_EN_DLY  2p  TC=0,0 
R_CH2_R3         GND2 IN2  150k TC=0,0 
S_CH2_OUTN         OUT2L GND2 CH2_N27679 GND2 _CH2_OUTN
.MODEL      _CH2_OUTN VSWITCH Roff=1G Ron=0.36 VH=0.7 VT=1.45
C_CH2_C1         GND2 VCC2  10n  TC=0,0 
R_CH2_R2         CH2_UVLO_EN GND2  100k TC=0,0 
D_CH2_D7         CH2_UVLO_DLY CH2_UVLO_EN power_Dbreak 
X_CH2_U4         CH2_CH_EN_DLY CH2_N27679  VCC2 GND2 INV
R_R8         N247111 GND2  100 TC=0,0 
R_R7         N170031 GND1  100 TC=0,0 
D_D2         GND1 N247111 power_Dbreak
*$
.ENDS
*$

.SUBCKT INV A Y VCC GND
ET NT GND VALUE = {0.5*V(VCC,GND)}
RQ VCC GND 10e6
EA NO GND VALUE = {V(VCC,GND)*(0.5*(SGN(V(NT,GND) - V(A,GND)) + 1))}
RO1 NO NO1 50
RO2 NO1 Y 50
CO NO1 GND 0.1f
.ENDS INV